US06403610B1
A stirred solution of 0.77 g of methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(pyridin-2-ylthio)ethyl]piperidine-3-carboxylate in 15 cm3 of methanol was cooled to a temperature in the region of 0° C. under an inert atmosphere. 0.063 g of sodium borohydride was added and then, after 15 minutes, the temperature was brought back to the region of 20° C. for 16 hours. After adding 5 cm3 of a saturated aqueous ammonium chloride solution, the mixture was stirred for 10 minutes and then evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was taken up in 10 cm3 of a dichloromethane/methanol (95/5 by volume) mixture and then filtered. The insoluble material was washed with 2 times 5 cm3 of the same mixture. The filtrate was evaporated under the same conditions as above. A foam was obtained, which product was purified by chromatography under a nitrogen pressure of 100 kPa on a column of silica gel (particle size 40-63 μm; diameter 3.5 cm; silica height 35 cm), elution was carried out first with a dichloromethane/methanol (96/4 by volume) mixture, and 35-cm3 fractions were collected. After the first 50 fractions, elution was carried out with a dichloromethane/methanol (90/10 by volume) mixture. Fractions 61 to 90 were combined and then evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 0.33 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(pyridin-2-ylthio)ethyl]piperidine-3-carboxylate was obtained in the form of a lacquer with a beige color.

reactant | methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(pyridin-2-ylthio)ethyl]piperidine-3-carboxylate | 0.77 g | O=C(CC[C@H]1[C@H](CN(CC1)CCSC1=NC=CC=C1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C27H31N3O4S
reactant | sodium borohydride | 0.063 g | [BH4-].[Na+]
reactant | ammonium chloride | 5 cm3 | [Cl-].[NH4+]
solvent | methanol | 15 cm3 | CO | CH4O
solvent | dichloromethane methanol | 10 cm3 | ClCCl.CO
product | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(pyridin-2-ylthio)ethyl]piperidine-3-carboxylate | 0.33 g | OC(CC[C@H]1[C@H](CN(CC1)CCSC1=NC=CC=C1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C27H33N3O4S
